US07977331B1
To a solution of methyl 11-cyclohexyl-5-thia-6a-azabenzo[a]fluorene-8-carboxylate (100 mg, 0.26 mmol) in tetrahydrofuran (2 ml) and methanol (2 ml) was added 4N aqueous sodium hydroxide solution (2 ml), and the mixture was stirred at room temperature for 15 hr. 2N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was successively washed with water and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=2:1-1:1) to give 11-cyclohexyl-5-thia-6a-azabenzo[a]fluorene-8-carboxylic acid (32 mg, yield 33.3%).

reactant | methyl 11-cyclohexyl-5-thia-6a-azabenzo[a]fluorene-8-carboxylate | 0.26 mmol, 100 mg | C1(CCCCC1)C=1C2=CC=C(C=C2N2CSC3=C(C12)C=CC=C3)C(=O)OC | C23H23NO2S
reactant | sodium hydroxide | 4N, 2 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
product | 11-cyclohexyl-5-thia-6a-azabenzo[a]fluorene-8-carboxylic acid | 32 mg, yield 33.3% | C1(CCCCC1)C=1C2=CC=C(C=C2N2CSC3=C(C12)C=CC=C3)C(=O)O | C22H21NO2S
